US05210092
To a stirred solution of 5-chloro-4-(4-hydroxymethylphenyl)-1-methylpyrrole-3-carbonitrile (450 mg) in methylene chloride (20 ml) was added triphenylphosphine (1.44 g) and carbon tetrabromide (1.21 g) successively at 0° C. and the resulting yellow solution was stirred at the same temperature for a while. The mixture was washed with aqueous saturated sodium bicarbonate and water, dried over magnesium sulfate and filtered. The organic layer was concentrated in vacuo and the residue was purified by flash chromatography eluted with a mixture of ethyl acetate and n-hexane 1:4 (V/V) then with 1:3 (V/V) to give 4-(4-bromomethylphenyl)-5-chloro-1-methylpyrrole-3-carbonitrile (220 mg) as a white solid.

reactant | 5-chloro-4-(4-hydroxymethylphenyl)-1-methylpyrrole-3-carbonitrile | 450 mg | ClC1=C(C(=CN1C)C#N)C1=CC=C(C=C1)CO | C13H11ClN2O
reactant | triphenylphosphine | 1.44 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrabromide | 1.21 g | C(Br)(Br)(Br)Br | CBr4
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 4-(4-bromomethylphenyl)-5-chloro-1-methylpyrrole-3-carbonitrile | 220 mg | BrCC1=CC=C(C=C1)C=1C(=CN(C1Cl)C)C#N | C13H10BrClN2
